US04857652
Methyl 6-tert-butyldiphenylsilyloxv-2-naphthoate.
[(6-tert-Butyldiphenylsilyloxy-2-naphthyl)methoxymethylene]adamantane 1d). Approximately 7 g of a 2:1 mixture of TiCl3 and lithium aluminum hydride (Aldrich) was cautiously added to a 250 mL dry three-neck round bottom flask containing 150 mL of dry THF maintained at 0° C. by an ice bath. The resulting black mixture was stirred at 0° C. for 10 minutes and triethylamine (3.3 mL, 24 mmol) was added. The mixture was refluxed for 1 hour and a solution of methyl tert-butyldiphenylsilylnaphthoate (1.76 g, 4 mmol) and adamantanone (600 mg, 4 mmol) in 40 mL of dry THF was added over 6 hours. Reflux was continued for an additional 4 hours and the mixture cooled to room temperature.

reactant | [(6-tert-Butyldiphenylsilyloxy-2-naphthyl)methoxymethylene]adamantane 1d | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)COC=C1[C-]2CC3CC(CC1C3)C2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | triethylamine | 24 mmol, 3.3 mL | C(C)N(CC)CC | C6H15N
reactant | methyl tert-butyldiphenylsilylnaphthoate | 4 mmol, 1.76 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)C1=C(C2=CC=CC=C2C=C1)C(=O)OC | C28H28O2Si
reactant | adamantanone | 4 mmol, 600 mg | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Methyl 6-tert-butyldiphenylsilyloxv-2-naphthoate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C28H28O3Si
